### PR TITLE
refactor(radical,div_radical): Namespace and redundant hypotheses

### PR DESCRIPTION
**Pull request by tb65536**
A couple suggestions. First, if you use `namespace polynomial`, you can avoid repeatedly writing `polynomial.`. Second, it's often nice to get rid of `a = 0` hypotheses where possible (e.g., by adding an extra case at the start of the lemma), because it can make them easier to use down the road.

### CODE REVIEW

File: src/radical.lean [hunk 1]
```diff
@@ -46,7 +46,7 @@ begin
   apply hc.disjoint_normalized_factors x_in_fa x_in_fb,
 end
 
-lemma is_coprime.mul_prime_factors_disj_union {a b : k[X]}
+lemma _root_.is_coprime.mul_prime_factors_disj_union {a b : k[X]}
```
Comment (seewoo5) [inline src/radical.lean:49]: What is `_root_`?

File: src/div_radical.lean [hunk 2]
```diff
@@ -196,25 +196,28 @@ begin
...
-theorem polynomial.div_radical_dvd_wronskian_right (a b : k[X]) : 
+theorem div_radical_dvd_wronskian_right (a b : k[X]) : 
   b.div_radical ∣ wronskian a b :=
 begin
   rw [wronskian_anticomm, dvd_neg],
   exact b.div_radical_dvd_wronskian_left _,
 end
+
+end polynomial
+#lint
```
Comment (tb65536) [inline src/div_radical.lean:223]:
```suggestion
```

**Comment by seewoo5** [comment]
Thanks! Looks much clearner.
